US07601714B2
To a solution of quinolin-5-yl-methylamine 100 mg, 0.39 mmol) and diisopropylethylamine (140 μL, 0.78 mmol) in a mixture of DMF (2 mL) and acetonitrile (2 mL) was added {4-[(2-chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester (150 mg, 0.39 mmol). The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with ethyl acetate and washed with water (×2). The combined organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 95:5 CH2Cl2:MeOH as an eluent to afford 197 mg of [4-({5-nitro-2-[(quinolin-5-ylmethyl)-amino]-pyrimidin-4-ylamino}-methyl)-cyclohexyl]-carbamic acid tert-butyl ester as a light yellow solid (100%).

reactant | quinolin-5-yl-methylamine | 0.39 mmol, 100 mg | N1=CC=CC2=C(C=CC=C12)NC | C10H10N2
reactant | diisopropylethylamine | 0.78 mmol, 140 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | {4-[(2-chloro-5-nitro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 0.39 mmol, 150 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C16H24ClN5O4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-({5-nitro-2-[(quinolin-5-ylmethyl)-amino]-pyrimidin-4-ylamino}-methyl)-cyclohexyl]-carbamic acid tert-butyl ester | 197 mg, 100% | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C2C=CC=NC2=CC=C1)=O | C26H33N7O4
